US08217069B2
3-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(2-hydroxyethoxy)phenyl]-5-hydroxymethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a solution of 5-carboxy-3-[2-chloro-5-(2,3-difluoro-6-methoxybenzyl-oxy)-4-(2-hydroxyethoxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (28 mg) in tetrahydrofuran (3 mL) was added borane-tetrahydrofuran complex (1.2 mol/L tetrahydrofuran solution, 0.21 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture were added water and a saturated aqueous ammonium chloride solution, and the resulting mixture was stirred at room temperature for 5 minutes. The mixture was extracted with ethyl acetate twice, and the extracts were dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−ethyl acetate−ethyl acetate/methanol=10/1) to give the title compound (6 mg).

reactant | 5-carboxy-3-[2-chloro-5-(2,3-difluoro-6-methoxybenzyl-oxy)-4-(2-hydroxyethoxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 28 mg | C(=O)(O)C1=CC=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)OCC2=C(C(=CC=C2OC)F)F)OCCO)Cl | C23H18ClF2N3O7
reactant | borane tetrahydrofuran | 1.2 mol/L, 0.21 mL | B.O1CCCC1
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(2-hydroxyethoxy)phenyl]-5-hydroxymethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 6 mg | ClC1=C(C=C(C(=C1)OCCO)OCC1=C(C(=CC=C1OC)F)F)N1C(NC=2C1=NC(=CC2)CO)=O | C23H20ClF2N3O6
